US06022492
Synthesis of 5-(4-decyl-2,3-difluorophenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine
The reaction of 2 mmol of 5-bromo-2-(6-hexyloxypyridin-3-yl)pyrimidine, 2 mmol of 4-decyl-2,3-difluorophenylboronic acid, 4 mmol of sodium carbonate and 0.02 mmol of tetrakis(triphenylphosphine)palladium(0) in 8 ml of toluene, 3 ml of ethanol and 3 ml of water is carried out analogously to the procedure indicated for Example 1a). The crude product is separated off by column chromatography on silica gel 60 using ethyl acetate as eluent and is recrystallized from acetonitrile, giving 0.4 g (39%) of colorless crystals, X 96 SA 127 I.

reactant | 5-bromo-2-(6-hexyloxypyridin-3-yl)pyrimidine | 2 mmol | BrC=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC | C15H18BrN3O
reactant | 4-decyl-2,3-difluorophenylboronic acid | 2 mmol | C(CCCCCCCCC)C1=C(C(=C(C=C1)B(O)O)F)F | C16H25BF2O2
reactant | sodium carbonate | 4 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-decyl-2,3-difluorophenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine | 0.4 g, 39% | C(CCCCCCCCC)C1=C(C(=C(C=C1)C=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC)F)F | C31H41F2N3O
